US05143918
A solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg, 0.16 mmol) in MeCl2 (5.0 ml) containing triethylamine (92.2 mg, 0.91 mmol) and 4-dimethylaminopyridine (61 mg, 0.49 mmol) at 0° C., was treated with methanesulfonyl chloride (69.6 mg, 0.61 mmol). After stirring at RT for 2.5 hr, the reaction mixture was diluted with MeCl2 (10 ml) and water. The aqueous layer was separated and extracted with additional MeCl2. After drying over magnesium sulfate, the solvent was removed in vacuo. The residue was chromatographed over SiO2 (10 g). Elution with n-hexane/ethyl acetate (3:1) yielded 17-ethyl-1-hydroxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos- 14,18-diene-2,3,10,16-tetraone (86.6 mg, 58%). Mass Spec: C52H89NO11Si (930.36) FAB+Li:1090 (M+ +Li+MATRIX) 936 (M+Li).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.16 mmol, 150 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C(C)C)(C(C)C)C(C)C)OC)C)C)O)=O | C52H89NO12Si
reactant | triethylamine | 0.91 mmol, 92.2 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.61 mmol, 69.6 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | MeCl2 | 5.0 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.49 mmol, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | MeCl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 17-ethyl-1-hydroxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos- 14,18-diene-2,3,10,16-tetraone | 86.6 mg, 58% | C(C)C1C(C=CC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C(C)C)(C(C)C)C(C)C)OC)C)C)=O | C52H87NO11Si
